US07153855B2
To a solution of 2-(3-bromophenyl)-N-cyclopentyl-3-[2-(cyclopentylamino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-7-amine (3.00 g, 5.8 mmol) in toluene (60 mL) was added benzophenone imine (3.15 g, 17.4 mmol), tris(dibenzylideneacetone)dipalladium (0.26 g, 0.3 mmol), rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (0.54 g, 0.15 mmol) and sodium tert-butoxide (1.67 g, 17.4 mmol). The reaction was heated at reflux for 5 hours, then allowed to cool to room temperature. Water and ethyl acetate were added to the reaction mixture. The phases were separated and the organic phase was washed with brine and dried (magnesium sulfate). Filtration and concentration of the filtrate followed by purification with flash chromatography (4:6 ethyl acetate:hexanes) gave N-cyclopentyl-3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-{3-[(diphenylmethylene)amino]phenyl}-pyrazolo[1,5-a]pyridin-7-amine (2.61 g, 73%) as a yellow solid. 1H NMR (CDCl3): δ 7.89 (d, 1H), 7.80–7.75 (m, 3H), 7.48 (m, 1H), 7.41 (m, 2H), 7.27 (m, 5H), 7.23–7.12 (m, 4H), 7.04 (s, 1H), 6.80 (d, 1H), 6.03–5.97 (m, 3H), 4.39 (m, 1H), 4.00 (m, 1H), 2.15–2.05 (m, 4H), 1.83–1.56 (m, 12H); MS m/z 618 (M+1).

reactant | 2-(3-bromophenyl)-N-cyclopentyl-3-[2-(cyclopentylamino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-7-amine | 5.8 mmol, 3.00 g | BrC=1C=C(C=CC1)C1=NN2C(C=CC=C2NC2CCCC2)=C1C1=NC(=NC=C1)NC1CCCC1 | C27H29BrN6
reactant | benzophenone imine | 17.4 mmol, 3.15 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.15 mmol, 0.54 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | sodium tert-butoxide | 17.4 mmol, 1.67 g | CC(C)([O-])C.[Na+]
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 0.3 mmol, 0.26 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | N-cyclopentyl-3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-{3-[(diphenylmethylene)amino]phenyl}-pyrazolo[1,5-a]pyridin-7-amine | 2.61 g, 73% | C1(CCCC1)NC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)NC2CCCC2)C2=CC(=CC=C2)N=C(C2=CC=CC=C2)C2=CC=CC=C2 | C40H39N7
